US08624041B2
A mixture of tetrahydrofuran (375 ml), 5-(bis-ethoxycarbonylmethyl-amino)-4-cyano-3-methoxycarbonylmethyl-thiophene-2-carboxylic acid ethyl ester (250 g) and 1200 ml 10% aq. solution of lithium hydroxide was stirred at room temperature for about 4 to 6 hours in a round bottom flask. The reaction mass was filtered off to remove any insoluble material. The clear filtrate was further stirred with 2.2 moles of strontium chloride in 1.7 liters of water for 15 to 20 hours at room temperature. The precipitated solid, distrontium salt of 2-[N-N-di(carboxymethyl-)amino]-3-cyano-4-carboxymethylthiophene-5-carboxylic acid in the form of an octahydrate, was filtered off and washed with water to form a wet cake. The resulting wet cake was dried to yield 333 grams of strontium ranelate octahydrate having a purity greater than 99.5% as determined by HPLC.

reactant | tetrahydrofuran | 375 ml | O1CCCC1 | C4H8O
reactant | 5-(bis-ethoxycarbonylmethyl-amino)-4-cyano-3-methoxycarbonylmethyl-thiophene-2-carboxylic acid ethyl ester | 250 g | C(C)OC(=O)C=1SC(=C(C1CC(=O)OC)C#N)NC(C(=O)OCC)C(=O)OCC | C18H22N2O8S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | strontium chloride | 2.2 moles | [Cl-].[Sr+2].[Cl-]
solvent | water | 1.7 liters | O | H2O
product | strontium ranelate octahydrate | 333 grams | C(C1=C(SC(=C1C#N)N(CC(=O)[O-])CC(=O)[O-])C(=O)[O-])C(=O)[O-].O.O.O.O.O.O.O.O.[Sr+2].[Sr+2] | InChI=1S/C12H10N2O8S.8H2O.2Sr/c13-2-6-5(1-7(15)16)10(12(21)22)23-11(6)14(3-8(17)18)4-9(19)20;;;;;;;;;;/h1,3-4H2,(H,15,16)(H,17,18)(H,19,20)(H,21,22);8*1H2;;/q;;;;;;;;;2*+2/p-4
